US07037938B2
To a solution of tert-butyl (2R)-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[2-(4′-hydroxy-1,1′-biphenyl-4-yl)ethyl]carbamate (240 mg) and potassium carbonate (78 mg) in N,N-dimethylformamide (4 ml) was added tert-butyl bromoacetate (110 mg), and the mixture was stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give tert-butyl [[4′-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-yl]oxy]acetate (245 mg).

reactant | tert-butyl (2R)-N-[2-(3-chlorophenyl)-2-hydroxyethyl]-N-[2-(4′-hydroxy-1,1′-biphenyl-4-yl)ethyl]carbamate | 240 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=CC=C(C=C1)O)O | C27H30ClNO4
reactant | potassium carbonate | 78 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 110 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-butyl [[4′-[2-[N-(tert-butoxycarbonyl)-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-1,1′-biphenyl-4-yl]oxy]acetate | 245 mg | C(C)(C)(C)OC(=O)N(C[C@H](O)C1=CC(=CC=C1)Cl)CCC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)OC(C)(C)C | C33H40ClNO6
